US04665206
The solution of carbamoyl-thiocarbonyl thioacetic acid prepared above was added to a solution of 3,4-dimethoxy-aniline (20 g) in ethanol (100 ml) and water (100 ml). The mixture was allowed to stand in a sealed vessel for 2 hr. The ethanol was evaporated under reduced pressure until crystallisation occurred. The product was collected by filtration, washed with cold ethanol, and dried to give N-(carbamoyl-thiocarbonyl-)-3,4-dimethoxyaniline (14.13 g); m.p. 149°-151° C.

reactant | carbamoyl-thiocarbonyl thioacetic acid | C(N)(=O)C(=S)CC(=S)O | C4H5NO2S2
reactant | 3,4-dimethoxy-aniline | 20 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | N-(carbamoyl-thiocarbonyl-)-3,4-dimethoxyaniline | 14.13 g | C(N)(=O)C(=S)NC1=CC(=C(C=C1)OC)OC | C10H12N2O3S
